US04810800
A mixture was prepared from 20.8 g of 2-[2-(4-toluenesulfonyloxy)ethyl]thiophene, 5.4 g of sodium cyanide and 175 ml of dimethylsulfoxide and this mixture was heated to 90° C. The mixture was quenched by pouring it into saturated aqueous ammonium chloride solution and the resulting solution was extracted into ethyl acetate. The ethyl acetate solution was dried over sodium sulfate and the solvent was evaporated under reduced pressure to give crude 2-thiophenepropionitrile. This product was mixed with 175 ml of 1M diborane in tetrahydrofuran and allowed to stir at room temperature. The reaction was quenched in ethanol and methanolic hydrogen chloride was added. The white solid which formed was separated by filtration, washed with ether and dried in a vacuum oven to give 3-(2-thienyl)propylamine hydrochloride melting at about 197°-198° C.

reactant | 2-[2-(4-toluenesulfonyloxy)ethyl]thiophene | 20.8 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC=1SC=CC1)C | C13H14O3S2
reactant | sodium cyanide | 5.4 g | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 175 ml | CS(=O)C | C2H6OS
product | 2-thiophenepropionitrile | S1C(=CC=C1)CCC#N | C7H7NS
